US08389537B2
To a 1 L round-bottom flask equipped with a mechanical stirrer, a thermometer, and a condenser, 4 g of 4-methyl-N-[3-(4-methyl-imidazol-1-yl)-5-trifluoromethyl-phenyl]-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-benzamide free base and 500 mL of ethyl acetate were charged. The slurry was stirred and heated to 76° C. (reflux) and held at that temperature for 40 minutes. To the resulting clear solution, 7.5 mL of 1 M benzene sulfonic acid solution (in ethyl acetate) was added. The mixture was stirred at 76° C. for 5 hours, cooled down to room temperature by natural cooling (cooling rate ˜0.5° C./min) and held at room temperature for ˜1 hour. The solid was collected by filtration and was dried at 50-55° C./10-20 torr for 8-16 hours to obtain 4-methyl-N-[3-(4-methyl-imidazol-1-yl)-5-trifluoromethyl-phenyl]-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-benzamide mono benzyl sulfonate salt as a yellowish solid. Melting point=˜260° C.; x-ray diffraction pattern showing maxima at 2θ=6.5°, 7.8°, 9.4°, 10.4°, 13.7°, 17.0°, 17.5°, 17.9°, 18.8°, 21.2°.

reactant | 4-methyl-N-[3-(4-methyl-imidazol-1-yl)-5-trifluoromethyl-phenyl]-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-benzamide | 4 g | CC1=C(C=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)N2C=NC(=C2)C)C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C28H22F3N7O
reactant | benzene sulfonic acid | 1 M, 7.5 mL | C1(=CC=CC=C1)S(=O)(=O)O | C6H6O3S
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | 4-methyl-N-[3-(4-methyl-imidazol-1-yl)-5-trifluoromethyl-phenyl]-3-(4-pyridin-3-yl-pyrimidin-2-ylamino)-benzamide mono benzyl sulfonate salt | C(C1=CC=CC=C1)OS(=O)=O.CC1=C(C=C(C(=O)NC2=CC(=CC(=C2)C(F)(F)F)N2C=NC(=C2)C)C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1 | InChI=1S/C28H22F3N7O.C7H8O3S/c1-17-5-6-19(10-25(17)37-27-33-9-7-24(36-27)20-4-3-8-32-14-20)26(39)35-22-11-21(28(29,30)31)12-23(13-22)38-15-18(2)34-16-38;8-11(9)10-6-7-4-2-1-3-5-7/h3-16H,1-2H3,(H,35,39)(H,33,36,37);1-5,11H,6H2
